US05700809
6-(4-Chlorophenyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To a mixture of 6-trifluoromethanesulfonyloxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (2 g, 5.25 mmol) and 4-chlorophenyl boronic acid (1.17 g, 7.5 mmol)in toluene (20 ml) was added a 2M sodium carbonate solution (7.5 ml). The reaction mixture was stirred under a nitrogen atmosphere, then tetrakis(triphenylphosphine)palladium(0) (0.29 g, 0.25 mmol) was added and the reaction mixture was heated at 90° C. for 18 h. After allowing to cool the reaction mixture was diluted with water (100 ml) and extracted with ethyl acetate (3×100 ml). The ethyl acetate extracts were combined, dried over magnesium sulphate, filtered and evaporated under reduced pressure to give an oil. Purification by flash chromatography using hexane/ethyl acetate as eluant gave the title compound as an oil (0.7 g, 39%); δH (CDCl3) 1.5 (9H, s, C(CH3)3), 2.89 (2H, t, J 8.3 Hz, CH2), 3.68 (2H, t, J 8.3 Hz, CH2), 4.61 (2H, s, CH2), and 7.15-7.5 (7H, m, ArH).

reactant | 6-trifluoromethanesulfonyloxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 5.25 mmol, 2 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)OS(=O)(=O)C(F)(F)F | C15H18F3NO5S
reactant | 4-chlorophenyl boronic acid | 7.5 mmol, 1.17 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2M, 7.5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.25 mmol, 0.29 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-Chlorophenyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.7 g, 39% | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)C1=CC=C(C=C1)Cl | C20H22ClNO2
